US09034891B2
Synthesis of 2,8-dimethyl-1-oxa-3,8-diaza-spiro[4.5]decane
To a solution of 4-aminomethyl-1-methyl-piperidin-4-ol (2.127 g, 14.77 mmol) in dichloromethane (15 ml) was added anhydrous magnesium sulfate (2.9 g). The resulting mixture was cooled to 0° C. and freshly distilled acetaldehyde (835 μl, 14.78 mmol) was added. After 6 h of stirring at room temperature, the mixture was filtered and the solvent was evaporated under reduced pressure to give the title compound (2.16 g) as an almost colorless liquid. 1H NMR (CDCl3, 500 MHz) δ 4.60 (q, J=5.40 Hz, 1H, CHCH3), 3.01 (d, J=12 Hz, 1H, CHHNH), 2.76 (d, J=12 Hz, 1H, CHHNH), 2.55-2.31 (m, 4H, CH2N), 2.28 (s, 3H, NCH3), 1.77-1.58 (m, 4H, CH2CO), 1.36 (d, J=5.40 Hz, 3H, CH3CH) ppm; 13C NMR (CDCl3, 300 MHz) δ 87.57 (CH), 57.19 (CH2), 53.14 (C), 52.96 (CH2), 46.15 (CH3), 37.28 (CH2), 35.73 (CH2), 20.32 (CH3) ppm.

reactant | 4-aminomethyl-1-methyl-piperidin-4-ol | 14.77 mmol, 2.127 g | NCC1(CCN(CC1)C)O | C7H16N2O
reactant | magnesium sulfate | 2.9 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | acetaldehyde | 14.78 mmol, 835 μl | C(C)=O | C2H4O
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 2,8-dimethyl-1-oxa-3,8-diaza-spiro[4.5]decane | 2.16 g | CC1OC2(CN1)CCN(CC2)C | C9H18N2O
